US04262004
To a stirred and refluxing mixture of 11.2 parts of iron, 100 parts of ammonium chloride solution 0.8 N and 20 parts of methylbenzene are added 10.5 parts of (4-chloro-3-nitrophenyl)phenylmethanone and the whole is further stirred at reflux temperature for one hour. Methylbenzene (80 parts) is added and the whole is filtered over Hyflo. The organic layer is separated, dried, filtered and evaporated. The residue is washed with cyclohexane, yielding 8.4 parts of (3-amino-4-chlorophenyl)phenylmethanone; mp. 91.9° C.

reactant | ammonium chloride | 0.8 N | [Cl-].[NH4+]
reactant | (4-chloro-3-nitrophenyl)phenylmethanone | ClC1=C(C=C(C=C1)C(=O)C1=CC=CC=C1)[N+](=O)[O-] | C13H8ClNO3
catalyst | iron | [Fe] | Fe
solvent | Methylbenzene | CC1=CC=CC=C1 | C7H8
product | (3-amino-4-chlorophenyl)phenylmethanone | NC=1C=C(C=CC1Cl)C(=O)C1=CC=CC=C1 | C13H10ClNO
